### ISSUE TITLE
simp does not simplify raw nat literals

### ISSUE THREAD

**Issue by fgdorais** [leanprover/lean4#561]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The simplifier does not simplify raw nat literals. In other words, it is missing simp lemmas like:
```lean 
@[simp] theorem nat_lit_n : nat_lit n = n := rfl
```
While raw nat literals are rarely generated by users, they do occur at intermediate steps by the simplifier as illustrated by the `2 * x` example below.

The two cases `nat_lit_0` and `nat_lit_1` are enough to suppress the most common simp failures, but it is not difficult to see that there are circumstances where `nat_lit_2` and higher cases are necessary.

### Steps to Reproduce

```lean
example : 0 * x = 0 := by simp -- works
example : nat_lit 0 * x = 0 := by simp -- fails!
example : 1 * x = x := by simp -- works
example : nat_lit 1 * x = x := by simp -- fails!
example : 2 * x = x + x := by simp [Nat.succ_mul] -- fails!

@[simp] theorem nat_lit_0 : nat_lit 0 = 0 := rfl
@[simp] theorem nat_lit_1 : nat_lit 1 = 1 := rfl

example : nat_lit 0 * x = 0 := by simp -- works
example : nat_lit 1 * x = x := by simp -- works
example : 2 * x = x + x := by simp [Nat.succ_mul] -- works
```

### Versions

`Lean (version 4.0.0-nightly-2021-07-07, commit e2210ec4e04b, Release)`
